US05162312
e) 17beta-methoxy-16alpha,17alpha-methylene-estr-5(10)-en-3-one
10 g of 3,17-dimethoxy-16alpha,17alpha-methylene-estra-2,5(10)-diene is suspended in 165 ml of 80% aqueous acetone and is mixed with vigorous stirring with 0.2 ml of 25% sulfuric acid. Then, with stirring, it is heated on the water bath (60° C.) until all the steroid has gone into solution (about 30 minutes). Then, it is allowed to cool to room temperature and stirred one more hour. After the reaction has been completed, the steroid is precipitated by the addition of water, separated and dried. 9.5 g of crystalline 16alpha,17alpha-methylene compound, which was used in the next step without recrystallization, is obtained.

reactant | 3,17-dimethoxy-16alpha,17alpha-methylene-estra-2,5(10)-diene | 10 g | COC=1CC=2CC[C@H]3[C@@H]4C[C@@H]5[C@]([C@@]4(C)CC[C@@H]3C2CC1)(C5)OC | C21H30O2
reactant | sulfuric acid | 0.2 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
solvent | acetone | 165 ml | CC(=O)C | C3H6O
product | 17beta-methoxy-16alpha,17alpha-methylene-estr-5(10)-en-3-one | CO[C@]12[C@]3(C)[C@@H](C[C@H]1C2)[C@@H]2CCC=1CC(CCC1[C@H]2CC3)=O | C20H28O2
